US07057042B2
2-{[4-(2-fluorophenyl)-1-piperazinyl]methyl}furo[3,2-b]pyridine
1-(2-Fluorophenyl)piperazine (0.18 g, 1.0 mmol) and sodium triacetoxyborohydride (0.32 g, 1.5 mmol) in dichloroethane (2 mL) were treated with the product from Example 35B (2 mL, 1.0 mmol) as a 0.5M solution in dichloroethane dropwise. The mixture was allowed to stir at room temperature for 17 hours. The mixture was diluted with dichloromethane (10 mL) and washed with 1N NaOH. The organic layer was dried over magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography on silica (dichloromethane to 2% methanol in dichloromethane) to provide the title compound. 1H NMR (CDCl3, 400 MHz) δ 2.81 (br, 4H), 3.19 (br, 4H), 3.85 (s, 2H), 6.89 (s, 1H), 7.00 (m, 4H), 7.20 (dd, J=4.75, 8.14 Hz, 1H), 7.74 (d, J=8.48 Hz, 1H), 8.52 (d, J=4.75 Hz, 1H); MS (DCI/NH3) m/z 312.2 (M+H)+; Anal. Calcd for C18H18FN3O: C, 69.44; H, 5.83; N, 13.50. Found: C, 69.36; H, 5.59; N, 13.28.

reactant | 1-(2-Fluorophenyl)piperazine | 1.0 mmol, 0.18 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | sodium triacetoxyborohydride | 1.5 mmol, 0.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-{[4-(2-fluorophenyl)-1-piperazinyl]methyl}furo[3,2-b]pyridine | FC1=C(C=CC=C1)N1CCN(CC1)CC1=CC2=NC=CC=C2O1 | C18H18FN3O
